US05624937
1-[4-(2-Benzoxazolylthio)phenyl]-3-(4-chloro-3-trifluoromethylphenyl)thiourea
2-(4-Aminophenylthio)benzoxazole (10.0 moles, 2.6 g) and 4-chloro-3-trifluoromethylphenylisothiocyanate (10.0 moles, 2.4 g) were reacted according to procedure A to yield of the title compound 1.6 g, 33%. Mass Spec (FD) 479. Calculated for C21H13ClF3N3OS2 : C, 52.56; H, 2.73; N, 8.75. Found: C, 52.47; H, 2.70; N, 8.48.

reactant | 2-(4-Aminophenylthio)benzoxazole | 10.0 moles, 2.6 g | NC1=CC=C(C=C1)SC=1OC2=C(N1)C=CC=C2 | C13H10N2OS
reactant | 4-chloro-3-trifluoromethylphenylisothiocyanate | 10.0 moles, 2.4 g | ClC1=C(C=C(C=C1)N=C=S)C(F)(F)F | C8H3ClF3NS
product | 1-[4-(2-Benzoxazolylthio)phenyl]-3-(4-chloro-3-trifluoromethylphenyl)thiourea | 1.6 g, 33% | O1C(=NC2=C1C=CC=C2)SC2=CC=C(C=C2)NC(=S)NC2=CC(=C(C=C2)Cl)C(F)(F)F | C21H13ClF3N3OS2
